data/rdb19/train.csv
rxn,smiles,ea
4453,[C:13]([C:14]([C:15]([H:16])[O:17][C:18]([H:24])([H:25])[H:26])([H:22])[H:23])([H:19])([H:20])[H:21].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:13]([C:14](=[C:15]([H:16])[O:17][C:18]([H:24])([H:25])[H:26])[H:22])([H:19])([H:20])[H:21].[C:1]([C:2]([C:3]([H:10])[H:11])([C:4](=[O:5])[O:6][H:12])[H:23])([H:7])([H:8])[H:9],33.7814086372382
5014,[C:11]([C:12]([C:13]([H:14])[O:15][C:16]([H:22])([H:23])[H:24])([H:20])[H:21])([H:17])([H:18])[H:19].[C:1]([O:2][C:3](=[C:4]([H:9])[H:10])[H:8])([H:5])([H:6])[H:7]>>[C:11]([C:12](=[C:13]([H:14])[O:15][C:16]([H:22])([H:23])[H:24])[H:20])([H:17])([H:18])[H:19].[C:1]([O:2][C:3]=[C:4]([H:9])[H:10])([H:5])([H:6])[H:7].[H:8][H:21],53.68742206483148
2796,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])[C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20]([C:21]([C:22]([C:23]([H:33])([H:34])[H:35])([N:24]([C:25](=[O:26])[H:37])[H:36])[H:32])([H:30])[H:31])([H:27])([H:28])[H:29]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])=[C:8]([C:9]([H:17])([H:18])[H:19])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:21]([C:22]([C:23]([H:33])([H:34])[H:35])([N:24]([C:25](=[O:26])[H:37])[H:36])[H:32])([H:30])[H:31].[H:15][C:20]([H:27])([H:28])[H:29],80.85876704042312
5348,[C:17]([C:18]([C:19]([H:20])[c:21]1[c:22]([H:32])[c:23]([H:33])[c:24]([H:34])[c:25]([H:35])[c:26]1[H:36])([H:30])[H:31])([H:27])([H:28])[H:29].[C:1](=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10]>>[C:1](=[C:2]([C:3]1[C:4]([H:12])([C:19]([C:18]([C:17]([H:27])([H:28])[H:29])([H:30])[H:31])([H:20])[c:21]2[c:22]([H:32])[c:23]([H:33])[c:24]([H:34])[c:25]([H:35])[c:26]2[H:36])[C:5]([H:13])=[C:6]([H:14])[C:7]([H:15])=[C:8]1[H:16])[H:11])([H:9])[H:10],21.285798634635285
2309,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([O:9][C:10](=[O:11])[C:12](=[C:13]([H:18])[H:19])[C:14]([H:20])([H:21])[H:22])([H:15])([H:16])[H:17]>>[C:1]([C:2]([H:3])([H:4])[C:13]([C:12]([C:10]([O:9][C:8]([H:15])([H:16])[H:17])=[O:11])[C:14]([H:20])([H:21])[H:22])([H:18])[H:19])([H:5])([H:6])[H:7],11.360317628772464
2733,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])([C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])[C:23]([C:21]([C:20]([H:26])([H:27])[H:28])=[C:22]([H:29])[H:30])([O:24])[O:25][H:31])([H:13])[H:14])([H:10])([H:11])[H:12]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])([C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])[C:23]([C:21]([C:20]([H:26])([H:27])[H:28])=[C:22]([H:29])[H:30])=[O:24])([H:13])[H:14])([H:10])([H:11])[H:12].[O:25][H:31],24.25734185212059
1446,[C:10]([C:11]([C:12]([C:13]([H:22])([H:23])[H:24])[C:14](=[O:15])[O:16][H:25])([H:20])[H:21])([H:17])([H:18])[H:19].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[C:10]([C:11]([C:12](=[C:13]([H:22])[H:23])[C:14](=[O:15])[O:16][H:25])([H:20])[H:21])([H:17])([H:18])[H:19].[O:1]([C:2](=[O:3])[C:4]([C:5]([H:8])[H:9])([H:7])[H:24])[H:6],37.58094070281368
3317,[C:13]([C:14]([C:15]([C:16]([H:26])([H:27])[H:28])[C:17](=[O:18])[O:19][C:20]([H:29])([H:30])[H:31])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7]>>[C:13]([C:14](=[C:15]([C:16]([H:26])([H:27])[H:28])[C:17](=[O:18])[O:19][C:20]([H:29])([H:30])[H:31])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[H:25])([H:5])([H:6])[H:7],37.90563874557847
4556,[C:13]([C:14]([C:15]([H:16])[N:17]([C:18](=[O:19])[H:26])[H:25])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3][H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9].[H:10][C:15]([C:14]([C:13]([H:20])([H:21])[H:22])([H:23])[H:24])([H:16])[N:17]([C:18](=[O:19])[H:26])[H:25],31.65622984210495
179,[C:12](=[C:13]([c:14]1[c:15]([H:23])[c:16]([H:24])[c:17]([H:25])[c:18]([H:26])[c:19]1[H:27])[H:22])([H:20])[H:21].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:1](=[C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:7])[H:8].[H:6][C:16]1([H:24])[C:15]([H:23])=[C:14]([C:13](=[C:12]([H:20])[H:21])[H:22])[C:19]([H:27])=[C:18]([H:26])[C:17]1[H:25],44.78850613965187
3674,[C:1]([C:2]([C:3]([H:4])([C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[C:19]([O:18][C:17]([H:24])([H:25])[H:26])([O:20])[C:21](=[C:22]([H:27])[H:28])[C:23]([H:29])([H:30])[H:31])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:4])([C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[C:19]([O:18][C:17]([H:24])([H:25])[H:26])=[O:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21](=[C:22]([H:27])[H:28])[C:23]([H:29])([H:30])[H:31],7.065233194560278
